US07612055B2
A solution of 0.5 g (2.77 mmol) isophthalic acid mono methyl ester, 5 ml toluene and 0.8 ml SOCl2 is treated with one drop DMF and heated to 80° C. till the evolution of gas ceases. After cooling down the mixture is evaporated, dissolved in 2 ml DCM and added to an at 0° C. stirred mixture of 5 ml 10% aqueous Na2CO3, 0.21 ml (3.0 mmol) cyclopropyl amine and 5 ml DCM. After 1 h the layers are separated and the organic layer is washed with 1 N HCl, brine, dried with sodium sulfate and evaporated. The crude product is crystallized (EtOAc, hexane) to yield N-cyclopropyl-isophthalamic acid methyl ester as off-white crystals.

reactant | isophthalic acid mono methyl ester | 2.77 mmol, 0.5 g | COC(C1=CC(C(=O)O)=CC=C1)=O | C9H8O4
reactant | SOCl2 | 0.8 ml | O=S(Cl)Cl | Cl2OS
reactant | Na2CO3 | 5 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | cyclopropyl amine | 3.0 mmol, 0.21 ml | C1(CC1)N | C3H7N
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | N-cyclopropyl-isophthalamic acid methyl ester | COC(C1=CC(C(=O)NC2CC2)=CC=C1)=O | C12H13NO3
